US08247436B2
3-(2,5-Dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid
To a stirred solution 3-(2,5-dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid methyl ester (1.28 g, 3.49 mmol) in methanol (25 ml) was added 1M NaOH (7 ml, 6.99 mmol) and the reaction mixture was left to stir at RT for 30 min. The solvent was removed in vacuo and water (20 ml) was added to the remaining residue. The pH was adjusted to pH 4/5 by the addition of 1M HCl. The mixture was extracted with EtOAc (3×20 ml) and the combined organic extracts were washed with brine (30 ml), dried (MgSO4) and concentrated in vacuo and dried in a vacuum oven (50° C.) overnight to give the crude title product as an orange solid which was used without further purification; LC-MS: Rt 1.23 min; MS m/z 353.1 [M+H]+; Method 2minLC_v003.

reactant | 3-(2,5-dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid methyl ester | 3.49 mmol, 1.28 g | COC(=O)C1=NC(=C(C=C1N1C(=CC=C1C)C)C(F)(F)F)C(F)(F)F | C15H12F6N2O2
reactant | NaOH | 6.99 mmol, 1M, 7 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 3-(2,5-Dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)C(F)(F)F)C(=O)O | C14H10F6N2O2
